US08536214B2
(S)—N-(5-((4-(fluoromethyl)-3-(trifluoromethyl)-1H-pyrazol-1-yl)methyl)-2,3-dihydro-1H-inden-2-yl)propane-2-sulfonamide
To a solution of (S)—N-(5-((4-(hydroxymethyl)-3-(trifluoromethyl)-1H-pyrazol-1-yl)methyl)-2,3-dihydro-1H-inden-2-yl)propane-2-sulfonamide (6.0 mg, 14 μmol) in DCM (3 mL) was added DAST (0.3 mL, 14 μmol). The whole was stirred at room temperature overnight before the reaction mixture was quenched by the addition of water (2 mL). The organics were filtered through a hydrophobic frit before being concentrated to dryness and the residue purified by basic preparative HPLC to give the title compound (1.0 mg, 2.4 μmol, 17%). MS (ESI): m/z [M−H]− 418.0

reactant | (S)—N-(5-((4-(hydroxymethyl)-3-(trifluoromethyl)-1H-pyrazol-1-yl)methyl)-2,3-dihydro-1H-inden-2-yl)propane-2-sulfonamide | 14 μmol, 6.0 mg | OCC=1C(=NN(C1)CC=1C=C2C[C@H](CC2=CC1)NS(=O)(=O)C(C)C)C(F)(F)F | C18H22F3N3O3S
reactant | DAST | 14 μmol, 0.3 mL | CCN(CC)S(F)(F)F | C4H10F3NS
solvent | DCM | 3 mL | C(Cl)Cl | CH2Cl2
product | (S)—N-(5-((4-(fluoromethyl)-3-(trifluoromethyl)-1H-pyrazol-1-yl)methyl)-2,3-dihydro-1H-inden-2-yl)propane-2-sulfonamide | 2.4 μmol, 1.0 mg, 17% | FCC=1C(=NN(C1)CC=1C=C2C[C@H](CC2=CC1)NS(=O)(=O)C(C)C)C(F)(F)F | C18H21F4N3O2S
